US07122683B2
tert-butyl (3S)-3-{(cyclobutylmethyl)[2-(trifluoromethyl)benzoyl]amino}pyrrolidine-1-carboxylate
tert-butyl (3S)-3-[(cyclobutylmethyl)amino]pyrrolidine-1-carboxylate (0.80 g, 3.15 mmol) in toluene (10 ml) was treated with 2-(trifluoromethyl)benzoyl chloride (0.55 ml, 3.78 mmol) and triethylamine (0.88 ml, 6.3 mmol). The solution was stirred for 18 hours at room temperature and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel using a gradient of pentane:ethylacetate (4:1 by volume) changing to pentane:ethylacetate (1:1 by volume) to afford the title compound as a colorless oil (1.40 g, crude) which is used directly in the next step.

reactant | tert-butyl (3S)-3-[(cyclobutylmethyl)amino]pyrrolidine-1-carboxylate | 3.15 mmol, 0.80 g | C1(CCC1)CN[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C14H26N2O2
reactant | 2-(trifluoromethyl)benzoyl chloride | 3.78 mmol, 0.55 ml | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 6.3 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (3S)-3-{(cyclobutylmethyl)[2-(trifluoromethyl)benzoyl]amino}pyrrolidine-1-carboxylate | 1.40 g | C1(CCC1)CN([C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H29F3N2O3
